US05760054
1,1-Dioxido-2-(4-(4-(2-oxo-(1H)-quinolin-1-yl)-piperidin-1-yl)-butyl)-4-methoxy-1,2-benzisothiazol-3(2H)-one
From the hydrochloride salt of 1-(4-piperidyl)-2(1H)-quinolinone prepared according to H. Ogawa et. al. J. Med. Chem. 1993, 36, 2011-2017, and 2-(4-bromobutyl)-4-methoxy-1,1-dioxido-1,2-benzothiazol-3(2H)-one using the procedure described for Example 15, Step 5 there was obtained a white solid: 1H NMR (300 MHz, CDCl3) 7.80 (t, J=8.1 Hz, 2H), 7.60 (d, J=9.33 Hz, 2H), 7.51 (m, 2H), 7.25 (m, 3H), 6.66 (d, J=9.27 Hz, 1H), 4.06 (s, 2H), 3.80 (t, J=6.9 Hz, 2H), 3.09 (dd, J=9.8, 1.8 Hz, 2H), 2.84 (m, 2H), 2.46 (t, J=7.2 Hz, 2H), 2.19 (t, J=11.6 Hz, 2H), 1.89 (br m, 2H), 1.69 (br m, 3H), 1.58 (s, 3H).

reactant | 1-(4-piperidyl)-2(1H)-quinolinone | N1CCC(CC1)N1C(C=CC2=CC=CC=C12)=O | C14H16N2O
reactant | 2-(4-bromobutyl)-4-methoxy-1,1-dioxido-1,2-benzothiazol-3(2H)-one | BrCCCCN1S(C2=C(C1=O)C(=CC=C2)OC)(=O)=O | C12H14BrNO4S
product | 1,1-Dioxido-2-(4-(4-(2-oxo-(1H)-quinolin-1-yl)-piperidin-1-yl)-butyl)-4-methoxy-1,2-benzisothiazol-3(2H)-one | O=S1(N(C(C2=C1C=CC=C2OC)=O)CCCCN2CCC(CC2)N2C(C=CC1=CC=CC=C21)=O)=O | C26H29N3O5S
